US06348474B1
5-Carboxy-3-(2,4-dichlorobenzyl)-2-methylbenzo[b]furan
A mixture of 3-(2,4-dichlorobenzoyl)-5-(methoxycarbonyl)-2-methylbenzo-[b]furan (0.57 g, 1.6 mmol), methanol (6 ml), tetrahydrofuran (6 ml) and a 2M aqueous sodium hydroxide solution (8.5 ml) was refluxed under heating for 40 min. The reaction mixture was concentrated under reduced pressure and water was added to the residue. The mixture was acidified with 3N hydrochloric acid and the precipitated solid was extracted with hot ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The desiccant was filtered offhand the filtrate was concentrated under reduced pressure to give the objective compound (0.54 g, quantitative) as colorless crystals.

reactant | 3-(2,4-dichlorobenzoyl)-5-(methoxycarbonyl)-2-methylbenzo-[b]furan | 1.6 mmol, 0.57 g | ClC1=C(C(=O)C=2C3=C(OC2C)C=CC(=C3)C(=O)OC)C=CC(=C1)Cl | C18H12Cl2O4
reactant | methanol | 6 ml | CO | CH4O
reactant | sodium hydroxide | 2M, 8.5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 5-Carboxy-3-(2,4-dichlorobenzyl)-2-methylbenzo[b]furan | C(=O)(O)C1=CC2=C(OC(=C2CC2=C(C=C(C=C2)Cl)Cl)C)C=C1 | C17H12Cl2O3
